US06313126B1
8-(trifluoromethylsulfonyloxy)-quinaldine
To a cold solution (−15° C.) of 8-hydroxy-quinaldine (11.5 g) in 50 mL CH2Cl2, TEA is added (29 mL). To the cold mixture a solution of 29.6 g of triflic anhydride in 50 mL of CH2Cl2, were added drop by drop with cooling. After complete addition, the reaction was stirred at −15° C. for 1 hour; The reaction was quenched with water, and the product was extracted with ether, dried and the solvent was removed to give 20 g of product. MS (ES) m/z (relative intensity): 292 (M+H+).

reactant | 8-hydroxy-quinaldine | 11.5 g | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | triflic anhydride | 29.6 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 8-(trifluoromethylsulfonyloxy)-quinaldine | 20 g | FC(S(=O)(=O)OC=1C=CC=C2C=CC(=NC12)C)(F)F | C11H8F3NO3S
